US09193692B2
H. 7-(5-Fluoro-2-methyl-4-(1-(tetrahydro-2H-pyran-2-yl)-1H-1,2,4-triazol-3-yl)phenyl)-1-isopropyl-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one
1-Isopropyl-7-(trimethylstannyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one (300 mg, 0.84 mmol), 3-(4-bromo-2-fluoro-5-methylphenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-1,2,4-triazole (428 mg, 1.26 mmol) and bis(triphenylphosphine)palladium(II) dichloride (56 mg, 0.08 mmol) were combined in N,N-dimethylformamide (5 mL). The mixture was degassed and heated at 140° C. under nitrogen for 3 h. After being cooled to room temperature, the reaction mixture was filtered and the filtrate was partitioned between ethyl acetate (15 mL) and water (15 mL). The organic layer was separated and the aqueous layer was extracted with ethyl acetate (10 mL×2). The combined organic layer was dried over sodium sulfate, filtered, concentrated under reduced pressure and purified by preparative TLC (15% methanol in dichloromethane) to give the title compound (200 mg, yield 52%) as a solid.

reactant | 1-Isopropyl-7-(trimethylstannyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | 0.84 mmol, 300 mg | C(C)(C)N1C(CNC=2C1=NC(=CN2)[Sn](C)(C)C)=O
reactant | 3-(4-bromo-2-fluoro-5-methylphenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-1,2,4-triazole | 1.26 mmol, 428 mg | BrC1=CC(=C(C=C1C)C1=NN(C=N1)C1OCCCC1)F | C14H15BrFN3O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.08 mmol, 56 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 7-(5-Fluoro-2-methyl-4-(1-(tetrahydro-2H-pyran-2-yl)-1H-1,2,4-triazol-3-yl)phenyl)-1-isopropyl-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | 200 mg, yield 52% | FC=1C(=CC(=C(C1)C1=CN=C2C(=N1)N(C(CN2)=O)C(C)C)C)C2=NN(C=N2)C2OCCCC2 | C23H26FN7O2
